US04960902
Step (1) Preparation of 4-Trifluoromethoxyphenylhydrazine Hydrochloride
A suspension of p-trifluoromethoxyaniline (5.0 g, 28 mmol) in 33 mL of concentrated HCl was diazotized at 0°-10° C. with a solution of sodium nitrite (2.0 g, 29 mmol) in H2O (17 mL). After stirring for 15 minutes at -5° C., the turbid solution was made clear by the addition of a few drops of water. A solution of stannous chloride (12.6 g, 56 mmol) in concentrated HCl (11 mL) was added in one portion. The mixture was stirred for 3 hours (with the ice bath removed after 1 hour), basified with 50% NaOH and extracted with EtOAc (2×). The organic phase was washed with 1N NaOH and brine, dried (KOH pellets) and acidified with anhydrous HCl. The precipitate was filtered and dried to give the title product as the white solid hydrochloride salt [4.83 g, mp 231° C. (dec.)]. A second crop was obtained by concentration of the mother liquors (0.62 g). Combined yield 5.45 g (85%).

reactant | p-trifluoromethoxyaniline | 28 mmol, 5.0 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | sodium nitrite | 29 mmol, 2.0 g | N(=O)[O-].[Na+]
reactant | HCl | 33 mL | Cl | ClH
reactant | HCl | 11 mL | Cl | ClH
solvent | H2O | 17 mL | O | H2O
catalyst | water | a few drops | O | H2O
product | 4-Trifluoromethoxyphenylhydrazine Hydrochloride | Cl.FC(OC1=CC=C(C=C1)NN)(F)F | InChI=1S/C7H7F3N2O.ClH/c8-7(9,10)13-6-3-1-5(12-11)2-4-6;/h1-4,12H,11H2;1H
